Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Odynophagia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___:
HPI:
___ year old male with esophageal cancer who presents with
episodes of emesis.  His throat is hurting. Whenever he eats the
food cannot go down. This has been occurring for 4 months. He 
has
been on chemotherapy and his last treatment was yesterday and he
went for a CT scan after that. Before his treatment he was 
unable
to swallow food at all but towards the end he was able to 
swallow
a little bit. Once his treatment was complete he stopped taking
tube feeds and tried to eat. He did not like  getting  tube 
feeds
because it resulted in diarrhea and he enjoys eating. Per the
documentation from the rehab he has been having emesis since 
this
morning and then developed abdominal pain which was not improved
with po oxycodone. An attempt was made to get labs at the rehab
but they could not. Given this the attending for the rehab was
notified and a decision was made to send him to ___. Of note 
he
had a watery bowel movement this morning at rehab. 
He does not know why his rehab sent him here. 
.
He has lost 30lbs since being treated. He has been getting
treatment for the past 4 months.  No fevers or chills. No chest
pain or shortness of breath. His only complaint is throat pain
and inability to eat. He does not report abdominal pain. 

In ER: (Triage Vitals:9 |99.6 |94 |102/71|16|99% RA) 
Meds Given: None
Fluids given: 2L IV crystalloid 
Radiology Studies: none
consults called: The ED attempted to transfer him to ___ and
___ ED but they declined to accept the patient. 

 
Past Medical History:
Malignant neoplasm of esophagus
Alcohol absue
Dysphagia
gastrostomy status
 
Social History:
___
Family History:
Both of his parents died of old age.
 
Physical Exam:
97.2
PO 101 / 65 61 18 98 Ra 
GENERAL: Alert and in no apparent distress. Cachetic and thin.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally 
GI: Abdomen soft, non-distended, but tender with palpation
throughout. J tube in place c/d/i
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities 
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
___ 07:50AM BLOOD WBC-2.5* RBC-3.26* Hgb-10.8* Hct-30.1* 
MCV-92 MCH-33.1* MCHC-35.9 RDW-18.1* RDWSD-60.7* Plt ___
___ 07:50AM BLOOD Glucose-93 UreaN-12 Creat-0.7 Na-142 
K-4.0 Cl-102 HCO3-26 AnGap-14
___ 09:15AM BLOOD ALT-15 AST-24 AlkPhos-75 TotBili-0.7
___ 09:15AM BLOOD Lipase-47
___ 07:50AM BLOOD Calcium-9.2 Phos-3.9 Mg-1.6
___ 07:30PM BLOOD Lactate-1.0.
.
___BD & PELVIS WITH CO 
EXAMINATION:  CT scan of the abdomen pelvis with intravenous 
contrast. 
  
INDICATION:  ___ year old man with esophageal cancer ___ G tube// 
increasing 
abdominal pain, nausea, vomiting. 
  
TECHNIQUE:   Single phase split bolus contrast: MDCT axial 
images were 
acquired through the abdomen and pelvis following intravenous 
contrast 
administration with split bolus technique. 
Oral contrast was administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 0.5 s, 0.2 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 1.5 
mGy-cm. 
   2) Stationary Acquisition 19.0 s, 0.2 cm; CTDIvol = 254.1 mGy 
(Body) DLP = 
50.8 mGy-cm. 
   3) Spiral Acquisition 7.5 s, 48.9 cm; CTDIvol = 5.3 mGy 
(Body) DLP = 256.1 
mGy-cm. 
 Total DLP (Body) = 308 mGy-cm. 
  
COMPARISON:  No relevant prior imaging is available for 
comparison. 
  
FINDINGS:  
  
LOWER THORAX: The lung bases are clear. No pleural or 
pericardial effusion. 
  
HEPATOBILIARY: The liver is unremarkable. No biliary ductal 
dilatation. 
Unremarkable gallbladder. 
  
PANCREAS: Unremarkable. 
  
SPLEEN: Unremarkable. No splenomegaly. 
  
ADRENALS: The adrenal glands are normal in size and morphology. 
  
URINARY: Subcentimeter renal cortical hypodensities are too 
small to 
characterize but likely represent small cysts.  No 
hydronephrosis.  
Unremarkable bladder. 
  
GASTROINTESTINAL: The patient's primary esophageal carcinoma is 
not clearly 
identified on the current examination.  The stomach appears 
unremarkable.  The 
small and large bowel are normal in caliber.  There is a 
percutaneous 
jejunostomy tube in situ.  Mild apparent colonic wall thickening 
involving the 
descending and sigmoid colon are likely related to incomplete 
oral contrast 
opacification and admixture of fecal contents. 
  
REPRODUCTIVE ORGANS: Mild prostatomegaly. 
  
LYMPH NODES: Borderline prominent retroperitoneal lymph node at 
the level of 
the SMA measuring 8 mm (axial series 5, image 28; coronal series 
7, image 20). 
No pelvic or inguinal adenopathy. 
  
PERITONEUM, RETROPERITONEUM, MESENTERY: Unremarkable. 
  
VASCULAR: No abdominal aortic aneurysm. Mild to moderate 
atherosclerotic 
calcification. 
  
BONES: Posttraumatic deformity of the left lower ribs 
posteriorly.  No 
suspicious osseous lesion. 
  
SOFT TISSUES: Unremarkable. 
  
IMPRESSION: 
  
  
1. No cause for the patient's symptoms is identified. 
2. Percutaneous jejunostomy tube in situ. 
3. The patient's primary esophageal carcinoma is not confidently 
identified on 
the current examination.  Single prominent retroperitoneal lymph 
node. 
4. No other evidence of metastatic disease within the abdomen or 
pelvis is 
identified. 

 
Brief Hospital Course:
___ year old ___ ___ speaking male with
history of esophageal SCC ___ ___ CRT at ___ and ___
jejunostomy for nutrition back up presents on ___ from ___ rehab with nausea, vomiting, abdominal pain and
odynophagia.

#ABdominal pain, nausea, vomiting
-Workup with LFTs and lipase and CT A/P with contrast was 
unrevealing for any acute pathology.
-Patient had no abdominal pain since admission. His vomiting did 
not recur. It was associated with the patient trying to eat at 
Rehab when he developed odynophagia. The cause of his symptoms 
is likely abdominal pain radiating from his odynophagia and 
nausea induced by severe odynophagia.
-J tube position was verified by the CT A/P

#Odynophagia
-This is in context of esophageal ___ ___ CRT a month ago.
-Recent imaging ___ PET/CT) last week at ___ shows
improvement in mid-esophageal mass, mediastinal, upper abdominal
and right supraclavicular lymphadenopathy. However, there is
diffuse esophageal uptake, slightly more intense at the level of
mass. CT chest (___) with decreased thickening of esophagus
with minimal asymmetry.
-Main concern would be development of ?radiation esophagitis. A
potential esophageal stricture ___ not have developed yet (only 
1
month ago he received RT).
-I spoke with Dr. ___ oncologist on ___, regarding the 
patient's
complaint of odynophagia. He thinks it is probably related to 
the
radiation recently and is not unexpected. He prefers that any
endoscopy should be performed at ___ rather than at
___, but thinks it is reasonable to hold off on endoscopy at
this time if his odynophagia improves on its own.
-NPO upon discharge until instructed otherwise by his 
oncologist.
-Follow up with oncologist as scheduled for next week.

#History of esophageal SCC ___ ___ CRT 
-___: presented to the ___
emergency department with 2 weeks of vomiting with all oral
intake 
-___: upper endoscopy with Dr. ___ at the
___ showed food in the upper third of
the esophagus with a malignant appearing intrinsic stenosis at 
25
cm from the incisors. The stenosis was severe and could not be
transversed. Biospy at the ___ showed
squamous cell carcinoma with foci suspicious for invasion
associated with severe active esophagitis and ulceration 
-___: CT of the chest at the ___ showed circumferential thickening involving the 
proximal
and mid esophagus without evidence enlarged adjacent lymph 
nodes.
There were ground glass opacities in the left lower lobe thought
to be related to aspiration. 
-___: The patient had a laparoscopic jejunostomy
tube placed with Dr. ___. During this procedure he also had a
bronchoscopy showing no endobronchial abnormalities. 
-Followed by Dr. ___ at ___ (oncology) and Dr. ___ (thoracic surgery) and Dr. ___ (radonc)
-___ completion of carboplatin/paclitaxel and radiation in 
___
at ___. 
-___ had PET/CT and ___hest w/contrast were
performed (see ___ note in OMR where the imaging reports are
copied). Overall improvement was seen in disease burden. He
should have continued outpatient follow up for question renal
primary lesion and the focal uptake in the region of the right
retromolar trigone suspicious for mucosal lesion. 
-Dr. ___ per his last office note was going to use 
results
of imaging to determine need for ?surgery in the future

-Patient's daughter, ___, was fully updated by phone on day 
of discharge per patient's request and in agreement with 
discharge plan.
 
Greater than 30 minutes was spent on discharge planning and 
coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Bisacodyl 10 mg PR QHS:PRN constipation 
3. Fleet Enema (Saline) ___AILY:PRN constipation 
4. GuaiFENesin 10 mL PO Q4H:PRN cough 
5. Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain 
6. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
7. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

10. Senna 8.6 mg PO BID:PRN Constipation - First Line 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Lansoprazole Oral Disintegrating Tab 30 mg J TUBE BID  
2.  Acetaminophen 650 mg NG 5X/DAY  
3.  OxycoDONE Liquid 5 mg NG Q4H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 mg by mouth every four (4) hours 
Refills:*0 
4.  Bisacodyl 10 mg PR QHS:PRN constipation  
5.  Fleet Enema (Saline) ___AILY:PRN constipation  
6.  Lidocaine Viscous 2% 15 mL PO QID:PRN mouth pain  
7.  Senna 8.6 mg NG BID:PRN Constipation - First Line  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Odynophagia
Esophagitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Instructions: Dear Mr. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had pain in the throat with swallowing, and vomiting.

====================================
What happened at the hospital? 
====================================

-Your throat pain with swallowing and vomiting episode was due 
to esophagitis, inflammation of the esophagus, which is most 
likely due to the recent radiation treatment you had over a 
month ago.
-We spoke to your oncologist, Dr. ___. The recommendation 
is that if this gets worse over the next week, you ___ need an 
endoscopy (camera procedure to look inside the esophagus). 
-For the next week until you get to see Dr. ___ in follow up, 
you should eat and drink nothing by mouth. There is a high risk 
of aspiration (food/water going down into the lung instead of 
stomach, which can cause infection or trouble breathing) and 
worsening of your pain while there is esophagitis. You need to 
give time for the area to heal and improve.
-You will receive nutrition and hydration through your J tube.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Please do not take anything by mouth except for mouth swabs or 
occasional ice chips. Do not eat or drink anything else until 
instructed otherwise by your oncologist, Dr. ___.
-Follow up with Dr. ___ as scheduled. He will give you more 
information on recommendations of what to do about your cancer 
in the future in addition to whether you need endoscopy 
performed to evaluate your throat pain if it is not any better 
by next week.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___